US08431578B2
Step 1: 4-Chloro-6-[5-(3-methoxy-phenyl)-pyridin-3-yl]-2-pyridin-2-yl-pyrimidine
A solution of 5-(3-methoxy-phenyl)-pyridine boronic acid hydrochloride (Int. D) (1 eq, 59 mg) in DME (1 ml) and 2M sodium carbonate (0.4 ml) is treated with 4,6-dichloro-2-pyridin-2-yl-pyrimidine (Int. C) (1 eq, 50 mg) and placed under an atmosphere of argon. PdCl2(dppf).DCM (0.1 eq. 16 mg) is added and the reaction mixture is heated using microwave radiation at 90° C. for 1 h. After cooling to room temperature, the mixture is partitioned between EtOAc/water and the organic portion is separated, washed with brine, dried (MgSO4) and concentrated in vacuo. The crude residue is purified by reverse phase column chromatography (Isolute™ C18, 0-100% acetonitrile in water—0.1% TFA) and the appropriate fractions are combined and concentrated in vacuo. The residue is loaded onto a SCX-2 cartridge eluting with MeOH followed by 2M NH3 in MeOH. The methanolic ammonia fractions are concentrated in vacuo and dried under vacuum overnight to afford the title compound [M+H]+=375/377.

reactant | 5-(3-methoxy-phenyl)-pyridine boronic acid hydrochloride | 59 mg, 1 eq | Cl.COC=1C=C(C=CC1)C=1C=CC(=NC1)B(O)O
reactant | 4,6-dichloro-2-pyridin-2-yl-pyrimidine | 50 mg, 1 eq | ClC1=NC(=NC(=C1)Cl)C1=NC=CC=C1 | C9H5Cl2N3
reactant | DCM | 16 mg, 0.1 eq | C(Cl)Cl | CH2Cl2
solvent | DME | 1 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Chloro-6-[5-(3-methoxy-phenyl)-pyridin-3-yl]-2-pyridin-2-yl-pyrimidine | ClC1=NC(=NC(=C1)C=1C=NC=C(C1)C1=CC(=CC=C1)OC)C1=NC=CC=C1 | C21H15ClN4O
